US05220042
25 Milligrams of 1-(2,5-dimethoxy-1,4-benzoquinon-3-yl)-16-(2,5-dimethoxy-6-methyl-1,4-benzoquinon-3-yl)-Z-8-hexadecene was dissolved in 2 ml of methylene chloride, then to this solution was added 30 mg of m-chlorobenzoic acid and the reaction mixture was stirred at room temperature for 1 hour. After the reaction was completed the solvent was removed by evaporation under reduced pressure, then the residue obtained was purified by means of a preparative thin layer chromatography [adsorbent: "Silica gel F254 " manufactured by E. Merck A. G., developing solvent: benzene-ethyl acetate (5:1 mixture by volume/volume)] to obtain 9 mg of 1-(2,5-dimethoxy-1,4-benzoquinon-3-yl)-16-(2,5-dimethoxy-6-methyl-1,4-benzoquinon-3-yl)-8,9-epoxyhexadecane. Yellow oily substance.

reactant | 1-(2,5-dimethoxy-1,4-benzoquinon-3-yl)-16-(2,5-dimethoxy-6-methyl-1,4-benzoquinon-3-yl)-Z-8-hexadecene | COC=1C(C=C(C(C1CCCCCCC\C=C/CCCCCCCC1=C(C(C(=C(C1=O)OC)C)=O)OC)=O)OC)=O | C33H46O8
reactant | m-chlorobenzoic acid | 30 mg | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,5-dimethoxy-1,4-benzoquinon-3-yl)-16-(2,5-dimethoxy-6-methyl-1,4-benzoquinon-3-yl)-8,9-epoxyhexadecane | 9 mg | COC=1C(C=C(C(C1CCCCCCCC1C(CCCCCCCC2=C(C(C(=C(C2=O)OC)C)=O)OC)O1)=O)OC)=O | C33H46O9
